US04138488
A. 5-(4-Chlorophenyl-Phenylmethyl)-2-Pyridone
Combine 109.3 g. (0.5 mole) of 4-chlorobenzhydrol with 142.7 g. (1.5 mole) of 2-hydroxypyridine and heat at 150° C. with stirring until molten. Add about 2 ml. of concentrated sulfuric acid and continue heating to 240°-250° C. while removing water from the reaction mixture. Permit the reaction to continue for about 2 hours, then cool the reaction mixture to about 25° C. Treat the resulting solid with ethyl acetate and water and filter to remove the undesired 3-(4-chlorophenyl-phenylmethyl)-2-pyridone. The organic layer is separated and washed with water several times and dried over potassium carbonate and filtered. Concentrate the filtrate to half volume and filter to remove the remaining 3-substituted-2-pyridone. Evaporate the filtrate and dissolve the residue in ethyl ether. Upon standing overnight the 5-(4-chlorophenyl-phenylmethyl)-2-pyridone crystallizes, yield 60 g., m.p. 164°-169° C.

reactant | 4-chlorobenzhydrol | 0.5 mole | ClC1=CC=C(C(C2=CC=CC=C2)O)C=C1 | C13H11ClO
reactant | 2-hydroxypyridine | 1.5 mole | OC1=NC=CC=C1 | C5H5NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-(4-Chlorophenyl-Phenylmethyl)-2-Pyridone | ClC1=CC=C(C=C1)C(C=1C=CC(NC1)=O)C1=CC=CC=C1 | C18H14ClNO
